US04753941
The procedure is similar to that described in Example 2, but starting with 5-thiazolecarboxylic acid (4.5 g), N,N'-carbonyldiimidazole (6.8 g) and 2-amino-7-chloro-1,8-naphthyridine (5 g). The product obtained by precipitation in water is purified by recrystallization in a dimethylformamide/acetonitrile (5:5 by volume) mixture (120 cc). N-(7-Chloro-1,8-naphthyridin-2-yl)-5-thiazolecarboxamide (5.5 g), m.p. 292° C., is thereby obtained.

reactant | 5-thiazolecarboxylic acid | 4.5 g | S1C=NC=C1C(=O)O | C4H3NO2S
reactant | 2-amino-7-chloro-1,8-naphthyridine | 5 g | NC1=NC2=NC(=CC=C2C=C1)Cl | C8H6ClN3
solvent | water | O | H2O
product | N-(7-Chloro-1,8-naphthyridin-2-yl)-5-thiazolecarboxamide | 5.5 g | ClC1=CC=C2C=CC(=NC2=N1)NC(=O)C1=CN=CS1 | C12H7ClN4OS
